US07238808B2
5-[7-Difluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-thiophene-2-sulfonic acid amide
The title compound was prepared from 7-difluoromethyl-3-ethynyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine (example C.2) (169 mg, 0.5 mmol) and commercially available 5-bromo-thiophene-2-sulfonamide (121 mg, 0.5 mmol) according to general procedure II. Obtained as a yellow solid (192 mg, 77%). MS (ISN) 497.0 [(M−H)−]; mp 210° C.

reactant | 7-difluoromethyl-3-ethynyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | 0.5 mmol, 169 mg | FC(C1=CC(=NC=2N1N=CC2C#C)C2=CC=C(C=C2)C(F)(F)F)F | C16H8F5N3
reactant | 5-bromo-thiophene-2-sulfonamide | 0.5 mmol, 121 mg | BrC1=CC=C(S1)S(=O)(=O)N | C4H4BrNO2S2
product | 5-[7-Difluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-thiophene-2-sulfonic acid amide | FC(C1=CC(=NC=2N1N=CC2C#CC2=CC=C(S2)S(=O)(=O)N)C2=CC=C(C=C2)C(F)(F)F)F | C20H11F5N4O2S2
